US09163042B2
A 50 liter jacketed glass reactor was fitted with an N2 inlet, a mechanical stirrer, and a condenser. With the stirrer set to 150 rpm and the jacket temperature set at 40° C., 2-Me-THF (6.000 L, 3.0 vol), 2-fluoro-4-(trifluoromethyl)benzoic acid (2000 g, 9.610 mol), 2-methoxypyridin-4-amine (1.278 kg, 10.09 mol), and TEA (2.917 kg, 4.018 L, 28.83 mol) were added to the reactor, which resulted in a slightly hazy, light amber solution. The reactor was switched to reaction control and heated to 35° C. To the solution was added T3P in 2-Me-THF (9.176 kg, 9.176 L of 50% w/w, 14.42 mol) over 30-45 min, which resulted in a light amber solution. After 2 hours, the reaction was judged to be complete by HPLC analysis (<2% of 1 remaining). The reaction was quenched with water (1.000 L, 0.5 vol), which was added via addition funnel over a period of 10 minutes in order to control the exothermic quenching reaction. The mixture was then diluted with 2-Me-THF (8.000 L, 4.0 vol) and water (8.000 L, 4.0 vol) and stirred for 30 minutes at 30-40° C. After stirring was stopped, the layers were allowed to separate, and the aqueous layer was removed. The organic layer was washed with 10% aqueous NaOH (6.000 L, 3.0 vol), stirring resulted in an emulsion. Brine (500.0 mL, 0.25 vol) was added, and the mixture was stirred for about 5 minutes. The layers were separated, and the aqueous layer removed. The organic layer was washed again with brine (10.00 L, 5.0 vol), and the aqueous layer was drained. The organic layer was dried over Na2SO4, and filtered through diatomaceous earth (Celite). The filter cake was washed with 2-Me-THF (4.000 L, 2.0 vol) and pulled dry. The filtrate was transferred to a rotovap, and partial distillation of solvent was begun at a bath temperature of 40° C. and a pressure of 150 mbar, resulting in the formation of solids in the mixture. Cyclohexane (10.00 L, 5.0 vol) was added portionwise during the partial distillation. Distillation was stopped, the reaction mixture (˜8 liter) was slurried on the rotovap, and the bath temperature was reduced to room temperature. The mixture was filtered, and the filter cake was washed with cyclohexane (2.000 L, 1.0 vol) and pulled dry under a nitrogen blanket to afford a light yellow solid. The solid was scooped out of the funnel and dried in vacuo (40° C., <30 mbar, rotovap) to afford 2-fluoro-N-(2-methoxypyridin-4-yl)-4-(trifluoromethyl)benzamide (2,501 g, 7.959 mol, 83%) as a fine, off-white solid.

reactant | 2-fluoro-4-(trifluoromethyl)benzoic acid | 9.610 mol, 2000 g | FC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H4F4O2
reactant | 2-methoxypyridin-4-amine | 10.09 mol, 1.278 kg | COC1=NC=CC(=C1)N | C6H8N2O
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | Cyclohexane | 10.00 L | C1CCCCC1 | C6H12
solvent | water | 8.000 L | O | H2O
solvent | Brine | 500.0 mL | [Cl-].[Na+].O
product | 2-fluoro-N-(2-methoxypyridin-4-yl)-4-(trifluoromethyl)benzamide | 7.959 mol, 2,501 g, 83% | FC1=C(C(=O)NC2=CC(=NC=C2)OC)C=CC(=C1)C(F)(F)F | C14H10F4N2O2
